US07985862B2
2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide
Mucochloric acid (15.1 g) and 2-cyanoacetamide (7.53 g) were dissolved in methanol (53.6 ml), and 2.5N aqueous sodium hydroxide solution (53.6 ml) was added dropwise with stirring under ice-cooling. The mixture was allowed to warm to room temperature, and further stirred at room temperature for 3 hr. The reaction mixture was poured into 1N hydrochloric acid containing ice water, methanol was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was crystallized from ethanol-diisopropyl ether to give the title compound (3.74 g) as pale-brown crystals.

reactant | Mucochloric acid | 15.1 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | 2-cyanoacetamide | 7.53 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydroxide | 2.5N, 53.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 53.6 ml | CO | CH4O
product | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 3.74 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
